US07528134B2
2-[4-(2-methoxyphenyl)-1-piperidinyl]-N-(3-methylphenyl)acetamide
4-(2-Methoxyphenyl)piperidine (200 mg, 1 mmol), the product from Example 1A (228 mg, 1 mmol) and N,N-diisopropylethylamine (0.185 mL, 1.1 mmol) in toluene (8 mL) were stirred at 60° C. for 18 hours. The reaction mixture was poured into water (30 mL) and extracted with ethyl acetate (30 mL). The organic layer was washed with brine (2×30 mL), dried over MgSO4, filtered and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (elution with dichloromethane:methanol, 9.5:0.5) to provide the title compound 177 mg (52.3%). 1H NMR (300 MHz, DMSO-d6) δ 1.71 (m, 4H), 2.28 (m, 5H), 2.89 (m, 1H), 2.96 (m, 2H), 3.13 (s, 2H), 3.78 (s, 3H), 6.91 (m, 3H), 7.20 (m, 3H), 7.45 (m, 2H), 8.69 (s, 1H); MS (DCI/NH3) m/e 339 (M+H)+. Anal. calcd for C21H26N2O2: C, 74.52; H, 7.74; N, 8.28. Found: C, 74.23, H, 7.71, N, 8.26.

reactant | 4-(2-Methoxyphenyl)piperidine | 1 mmol, 200 mg | COC1=C(C=CC=C1)C1CCNCC1 | C12H17NO
reactant | N,N-diisopropylethylamine | 1.1 mmol, 0.185 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | 30 mL | O | H2O
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(2-methoxyphenyl)-1-piperidinyl]-N-(3-methylphenyl)acetamide | 177 mg, 52.3% | COC1=C(C=CC=C1)C1CCN(CC1)CC(=O)NC1=CC(=CC=C1)C | C21H26N2O2
